Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC:  ___ Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: 
  
___ man with IDDM, HLD, HTN who presented to the ED as a 
referral from urgent care for abdominal pain and elevated 
lipase. 
   
___ has been suffering from ongoing abdominal pain and 
elevated lipase for a could weeks now. The first occurrence was 
on ___ when he developed LLQ pain for which he presented to 
the ED where labs and CT were normal. The pain largely resolved 
and he was able to tolerate PO intake. Since then he has had 
ongoing recurrent abdominal pain which comes and goes a few 
times per week. For work up he had a normal abdominal US on ___, 
CT and scrotal US on ___. The pain typically resolves on its own 
and is without nausea or vomiting. He spoke to his 
endocrinologist after his first ED visit who thought it may be 
medication related to Victoza because on subsequent checks his 
lipase began to elevate in the ___ range. Initially he did 
improve and the lipase resolved back to normal, however, the 
pain has recurred since then. The pain is described as LLQ, 
cramping and sometimes radiates toward his grown. The pain often 
waxes and wanes but occasionally can be severe that "I double 
over". He reports that early day of presentation to the ED the 
pain recurred again described as ___ in severity and ongoing 
all day, the pain now radiated to the L flank as well as L 
scrotum. No positional changes, no changes with food. Denies any 
changes to bowel habits. No dysuria. He does drink about 5 
glasses of wine per week but he does not see any relation of 
pain to wine, no worsening pain after wine intake. He has taken 
Tylenol with no improvement. He denies N/V or diarrhea. 
  
He presented to urgent care who referred him to the ED for 
evaluation. In the ED, initial VS were: 97.7 109 162/93 17 100% 
RA. Exam was notable for NABS, +LLQ tenderness which does not 
replicate his pain, nondistended +tenderness along the L flank, 
does not replicate pain, No ___ edema or calf tenderness. Labs 
were all normal except lipase which was elevated to 389 with 
otherwise normal LFTs. CT A/P was also negative without acute 
findings to describe symptoms. He was observed in the ED and 
serial labs revealed a rising lipase to 617 from 389 so he was 
admitted to medicine for work up.
 
On the floor, he feels well, has no abdominal pain currently, no 
nausea or vomiting and is asking if he can eat. He also wants to 
go home as early as possible today if he can.
  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. No recent change in bowel or bladder 
habits. No dysuria. Denies arthralgias or myalgias. Otherwise 
ROS is negative.

 
Past Medical History:
IDDM II
HTN
HLD
ADHD
Depression
 
Social History:
___
Family History:
No family history of pancreatitis or other GI illness
 
Physical Exam:
PHYSICAL EXAM:  
Vitals: 97.6 PO 143 / 84 R Lying 84 16 98 RA  
Pain Scale: ___
General: Patient appears well, laying supine in bed, comfortable 
and in NAD. Alert, oriented and in no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP low, no LAD appreciated
Lungs: Clear to auscultation bilaterally, moving air well and 
symmetrically, no wheezes, rales or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality, no murmurs, rubs or gallops appreciated
Abdomen: soft, non-tender, non-distended, normoactive bowel 
sounds throughout, no rebound or guarding
Ext: Warm, well perfused, full distal pulses, no clubbing, 
cyanosis or edema    
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly intact in bilateral UE and ___, symmetric

DISCHARGE EXAM: 
Vitals: 97.8, 144/88, 75, 18, 99%RA
General: Patient appears well, laying supine in bed, comfortable 
and in NAD. Alert, oriented and in no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP low, no LAD appreciated
Lungs: CTAB, comfortable
CV: RRR< no murmur
Abdomen: soft, non-tender, non-distended, normoactive bowel 
sounds throughout, no rebound or guarding
Ext: Warm, well perfused, full distal pulses, no clubbing, 
cyanosis or edema    
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly intact in bilateral UE and ___, symmetric

 
Pertinent Results:
Admission Labs:
___ 09:15PM BLOOD WBC-7.3 RBC-5.23 Hgb-14.7 Hct-43.6 MCV-83 
MCH-28.1 MCHC-33.7 RDW-13.5 RDWSD-41.1 Plt ___
___ 09:15PM BLOOD Neuts-49.1 ___ Monos-9.5 Eos-2.6 
Baso-0.7 Im ___ AbsNeut-3.59# AbsLymp-2.76 AbsMono-0.69 
AbsEos-0.19 AbsBaso-0.05
___ 09:15PM BLOOD Plt ___
___ 09:15PM BLOOD Glucose-80 UreaN-13 Creat-1.1 Na-138 
K-3.9 Cl-97 HCO3-30 AnGap-15
___ 04:00PM BLOOD Glucose-117* UreaN-14 Creat-1.2 Na-137 
K-4.2 Cl-97 HCO3-27 AnGap-17
___ 09:15PM BLOOD ALT-35 AST-31 AlkPhos-42 TotBili-0.5
___ 04:00PM BLOOD ALT-33 AST-32 AlkPhos-42 TotBili-0.4
___ 09:15PM BLOOD Lipase-617*
___ 04:00PM BLOOD Lipase-389*
___ 09:15PM BLOOD cTropnT-<0.01
___ 09:15PM BLOOD Albumin-4.7
___ 04:00PM BLOOD Albumin-4.9
___ 09:15PM BLOOD D-Dimer-324
 
CT A/P:
No acute intra-abdominal abnormality to explain the patient's 
presentation. 
  
Discharge Labs: 
___ 06:35AM BLOOD ALT-30 AST-29 AlkPhos-35* Amylase-113* 
TotBili-0.6
___ 06:35AM BLOOD Lipase-110*
 
Brief Hospital Course:
ASSESSMENT AND PLAN:
___ man with IDDM, HLD, HTN who presented to the ED as a 
referral from urgent care for abdominal pain and elevated 
lipase. 
   
# Possible Pancreatitis
# Abdominal Pain: Elevated lipase but without stranding around 
the pancreas. His Pain is typically LLQ but he does have back 
pain associated. He is also hungry and has no nausea or 
vomiting. Unclear trigger as well, medication effect is possible 
but unusual for pancreatitis to be so intermittent. There are no 
changes in LFTs to consider biliary obstructive process. Alcohol 
ingestion possible but he states no relation of pain to alcohol 
intake. Lipase may just be a red herring and pain completely 
unrelated to pancreatitis though no other clear organic cause 
based on CT or US. He was able to tolerate a diet and we 
discussed possible ___ to better evaluate the pancreas and rule 
out malignancy. He preferred to do it as an outpatient as he 
felt well. 
  
# HTN
# HLD
# "Rapid heart rate"
- Continued home statin, lisinopril, dilt and aspirin.
 
# Diabetes Mellitus, insulin dependent, type II
Previously on Victoza, recently started on insulin - detemir: 
Was on glargine while in the hospital and resumed home 
medications on discharge. 
  
# Depression
- Continued home Duloxetine
  
  
Transitional Issues:
- Would recommend consideration ___ (Vs CTA pancreas protocol) 
to better evaluate the pancreas to rule out the underlying 
malignancy given lipase elevation and recurrent abdominal pain. 

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dextroamphetamine 40 mg PO DAILY 
2. Lisinopril 30 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Diltiazem Extended-Release 240 mg PO DAILY 
5. Pravastatin 40 mg PO QPM 
6. Rosuvastatin Calcium 40 mg PO QPM 
7. Levemir 36 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
8. Aspirin 81 mg PO DAILY 
9. DULoxetine 60 mg PO DAILY 
10. glimepiride 4 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Dextroamphetamine 40 mg PO DAILY  
3.  Diltiazem Extended-Release 240 mg PO DAILY  
4.  DULoxetine 60 mg PO DAILY  
5.  glimepiride 4 mg oral DAILY  
6.  Levemir 22 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
7.  Lisinopril 30 mg PO DAILY  
8.  MetFORMIN (Glucophage) 1000 mg PO BID  
9.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,

You were admitted with abdominal pain and an elevated blood test 
called lipase. As we talked about this is usually from your 
pancreas but we did not see anything on your CT scan. Your pain 
resolved and you were stable for discharge. As we discussed you 
would likely benefit from having a MRI of your pancreas (called 
an ___ to evaluate the pancreas more completely. 

Please continue your medications as you were prior to the 
hospitalization and keep to a low fat diet and avoid alcohol for 
the time being. 
 
Followup Instructions:
___